US05840917
2-Ethylfuran (9.1 g) was dissolved in diethyl ether, and the mixture was cooled to -70° C. under nitrogen atmosphere. n-Butyllithium (1.6M in hexane, 60 ml) was slowly added dropwise. The mixture was stirred at room temperature for 2 hours, and then cooled to -70° C. The mixture was stirred for 30 minutes with introducing carbon dioxide gas, and then warmed to room temperature. The mixture was stirred at room temperature for 30 minutes, poured into ice-water, acidified with concentrated hydrochloric acid and extracted with diethyl ether. The extract was washed with saturated aqueous sodium chloride and concentrated under reduced pressure. The residue was crystallized from water and collected by filtration to give 5-ethyl-2-furancarboxylic acid (9.0 g).

reactant | 2-Ethylfuran | 9.1 g | C(C)C=1OC=CC1 | C6H8O
reactant | n-Butyllithium | 1.6M, 60 ml | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-ethyl-2-furancarboxylic acid | 9.0 g | C(C)C1=CC=C(O1)C(=O)O | C7H8O3
